US03947470
2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)benzoyl]benzofuran
When 2-(p-chlorophenyl)benzofuran is acylated with 4-(3-diethylaminopropoxy)benzoyl chloride hydrochloride by the procedure described in Example 6, the title compound is obtained.

reactant | 2-(p-chlorophenyl)benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C14H9ClO
reactant | 4-(3-diethylaminopropoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCCOC1=CC=C(C(=O)Cl)C=C1)CC
product | 2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)benzoyl]benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CC)CC)=O)C=CC=C2 | C28H28ClNO3
